US05616586
2) 2-Cyanomethyltetrahydroquinoline
To a solution of 2-hydroxymethyltetrahydroquinoline (54 g, 0.33 mol), imidazole (56 g, 0.825 mol), and triphenylphosphine (216 g, 0.825 mol) in a mixed solvent of 10:1 toluene/acetonitrile (2.2 L) was added iodine (167 g, 0.66 mol) at room temperature. The mixture was stirred for 30 min at the same temperature and aqueous sodium thiosulfate solution (300 mL) was added. The organic layer was separated, washed with brine, dried over magnesium sulfate, and concentrated. The residue was triturated with diethyl ether and the insoluble materials were removed by filtration. The filtrate was concentrated and the residual oil was dissolved in DMF (600 mL). To the solution was added sodium cyanide (33 g, 0.67 mol) and the mixture was heated at 80° C. for 4 h. The resulting mixture was poured into ice-water and extracted with ether. The organic layer was washed with brine, dried over magnesium sulfate, and concentrated to give 140 g of a crude product which was used for the next step without purification. The specimen for characterization was obtained by silica gel column chromatography of the crude product with 1:1 hexane/dichloromethane to 100% dichloromethane as eluent: 1H NMR (270 MHz, CDCl3) δ6.97~7.04 (m, 2H), 6.68 (t, 1H, J=7.4 Hz), 6.54 (d, 1H, J=7.4 Hz), 4.03 (br, 1H), 3.70 (m, 1H), 2.70~2.86 (m, 2H), 2.54 (d, 1H, J=6.6 Hz), 2.02~2.13 (m, 1H), 1.78~1.91 (m, 1H).

reactant | 2-hydroxymethyltetrahydroquinoline | 0.33 mol, 54 g | OCC1NC2=CC=CC=C2CC1 | C10H13NO
reactant | imidazole | 0.825 mol, 56 g | N1C=NC=C1 | C3H4N2
reactant | triphenylphosphine | 0.825 mol, 216 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 0.66 mol, 167 g | II | I2
reactant | sodium thiosulfate | 300 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium cyanide | 0.67 mol, 33 g | [C-]#N.[Na+]
solvent | toluene acetonitrile | 2.2 L | C1(=CC=CC=C1)C.C(C)#N
product | 2-Cyanomethyltetrahydroquinoline | C(#N)CC1NC2=CC=CC=C2CC1 | C11H12N2
